US05137909
2-(5-hexyloxy-1H-indol-2-yl)thio-2-phenylpropanol
A solution (20 ml) of 2-(5-hexyloxy-1H-indol-2-yl)thio-2-phenylpropionic acid (2.81 g) in anhydrous tetrahydrofuran was added dropwise to a suspension (10 ml) of lithium aluminum hydride (0.4 g) in anhydrous tetrahydrofuran, and the mixture was heated and refluxed for 30 minutes. The reaction solution was allowed to cool, and was poured into ice water. The mixture was acidified by adding 6N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water, and a saturated aqueous sodium chloride solution, and was dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was crystallized by adding n-hexane. The crude crystalline matter was recrystallized from ethanol to give 1.66 g (yield: 61 %) of the product compound as a pale green prism crystal. The melting point was 93.5°-95.5° C.

reactant | 2-(5-hexyloxy-1H-indol-2-yl)thio-2-phenylpropionic acid | 20 ml, 2.81 g | C(CCCCC)OC=1C=C2C=C(NC2=CC1)SC(C(=O)O)(C)C1=CC=CC=C1 | C23H27NO3S
reactant | lithium aluminum hydride | 10 ml, 0.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(5-hexyloxy-1H-indol-2-yl)thio-2-phenylpropanol | 1.66 g, yield: 61 % | C(CCCCC)OC=1C=C2C=C(NC2=CC1)SC(CO)(C)C1=CC=CC=C1 | C23H29NO2S
